US08476294B2
Stage 92.1.2. 4-Bromo-2-isopropoxy-pyridine
To isopropanol (12 ml) under Ar was added 55% sodium hydride in oil (343 mg, 7.86 mmol) in two portions. After 30 min stirring at rt was added 4-bromo-2-chloropyridine (Aldrich, Buchs, Switzerland, 1.01 g, 5.24 mmol) and the reaction mixture was heated with microwave irradiation to 150° C. for 30 min. The reaction mixture was concentrated, quenched with saturated aqueous NaHCO3 and extracted with EtOAc. The organic layer was washed with brine, dried over Na2SO4, filtered and evaporated. The crude product was purified by MPLC (heptane/EtOAc 0% to 20%) to give the title compound as an oil. (HPLC: tR 3.58 min (Method A); M+H=216, 218 MS-ES)

reactant | sodium hydride | [H-].[Na+]
reactant | 4-bromo-2-chloropyridine | 5.24 mmol, 1.01 g | BrC1=CC(=NC=C1)Cl | C5H3BrClN
reactant | isopropanol | 12 ml | C(C)(C)O | C3H8O
product | 4-Bromo-2-isopropoxy-pyridine | BrC1=CC(=NC=C1)OC(C)C | C8H10BrNO
